### PR TITLE
Finite-dimensionality of space of weight two quaternionic cusp forms for a definite quaternion algebra

### PR DESCRIPTION
**Pull request by abhijit-mudigonda**
I think this proves the finite-dimensionality of weight-two quaternionic cusp forms for a definite quaternion algebra
(currently [Theorem 11.6](https://imperialcollegelondon.github.io/FLT/blueprint/Quat_alg_project.html#TotallyDefiniteQuaternionAlgebra.WeightTwoAutomorphicForm.finiteDimensional) in the blueprint),
assuming the finiteness of a double coset space ([Theorem 10.17](https://imperialcollegelondon.github.io/FLT/blueprint/Fujisaki_project.html#NumberField.FiniteAdeleRing.DivisionAlgebra.finiteDoubleCoset) in the blueprint). 

There are two (small?) TODOs right now. The first is removing the hypothesis that D is a division ring - this should be immediate since D is definite, but I don't see an easy way to get it from existing theorems. The second is some factoring to reduce code duplication. The proof itself seems to run correctly though.

### CODE REVIEW

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 1]
```diff
@@ -1,31 +1,124 @@
...
 
--- let F be a totally real field
-variable {F : Type*} [Field F] [NumberField F] [IsTotallyReal F]
+-- let F be a number field
+variable {F : Type*} [Field F] [NumberField F]
     -- and let D be a totally definite quaternion algebra over F
-    {D : Type*} [Ring D] [Algebra F D] [IsQuaternionAlgebra F D]
+    -- TODO the assumption that D is totally definite implies that
+    -- D is a division ring, so we should be able to remove the
+    -- [DivisionRing D] requirement.
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: I don't think this comment is correct. The definition of `IsTotallyDefinite` right now is "for all F -> reals, D tensor reals is the quaternions" so a ring like M_2(Q(i)) is `IsTotallyDefinite`.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 2]
```diff
@@ -1,31 +1,124 @@
...
+    {D : Type*} [DivisionRing D] [Algebra F D] [IsQuaternionAlgebra F D]
     (hD : IsTotallyDefinite F D)
-
 -- Let K be a coefficient field
 variable (K : Type*) [Field K]
     -- and let U, the level, be a (compact) open subgroup of `(D ⊗ 𝔸_F^∞)ˣ`
-    (U : Subgroup (D ⊗[F] (FiniteAdeleRing (𝓞 F) F))ˣ)
-    (hU : IsOpen (U : Set (D ⊗[F] (FiniteAdeleRing (𝓞 F) F))ˣ))
+    (U : Subgroup (Dfx (F:=F) (D:=D)))
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
    {U : Subgroup (Dfx F D)}
```
You don't need to use `(F := F)` notation when the input is explicit.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 3]
```diff
@@ -1,31 +1,124 @@
...
+    (hU : IsOpen (U : Set (Dfx (F:=F) (D:=D))))
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
```
It's explicitly mentioned in the theorem statement so we don't need it here.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 4]
```diff
@@ -1,31 +1,124 @@
...
+
 -- Then the space of K-valued weight 2 level U modular forms for Dˣ is finite-dimensional over K.
 /-- The space of `K`-valued weight 2 level `U` quaternionic automorphic forms
 for `Dˣ` is finite-dimensional over `K`.
 -/
-theorem WeightTwoAutomorphicForm.finiteDimensional :
-    FiniteDimensional K (WeightTwoAutomorphicFormOfLevel U K) :=
-  sorry
+theorem WeightTwoAutomorphicForm.finiteDimensional
+    {hU : IsOpen (U : Set (Dfx (F:=F) (D:=D)))} :
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
    (hU : IsOpen (U : Set (Dfx F D))) :
```
I think U should be implicit and hU explicit so that the user only needs to supply hU.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 5]
```diff
@@ -1,31 +1,124 @@
...
+    FiniteDimensional K (WeightTwoAutomorphicFormOfLevel U K) := by
+    let U' : Subgroup (Dfx F D) := U
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: You do far more `let`s than I would do, but this one in particular is completely unnecessary: just delete this line and replace all U' by U.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 6]
```diff
@@ -1,31 +1,124 @@
...
+    let H' : Subgroup (Dfx F D) := {
+        carrier := Set.range (incl₁ F D),
+        one_mem' := ⟨1, by simp⟩,
+        mul_mem' := by
+            rintro _ _ ⟨a, rfl⟩ ⟨b, rfl⟩
+            exact ⟨a * b, by simp⟩,
+        inv_mem' := by
+            rintro _ ⟨a, rfl⟩
+            exact ⟨a⁻¹, by simp⟩
+    }
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
  let H' : Subgroup (Dfx F D) := (incl₁ F D).range
```
We have image of a group hom, you don't need to reinvent the wheel. Note also that this entire proof should be indented 2 spaces not 4.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 7]
```diff
@@ -1,31 +1,124 @@
...
+    -- We define a free K-module W with a basis indexed by
+    -- the elements of a double coset space which (in the totally
+    -- definite case) is finite)
+    let X := Doset.Quotient (Set.range (incl₁ F D)) U'
+    have h : Finite X :=
+        NumberField.FiniteAdeleRing.DivisionAlgebra.finiteDoubleCoset (K:=F) (D:=D) hU
+
+    letI := Fintype.ofFinite X
+    let m := Fintype.card X
+    let W := Fin m → K
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: For me this is a definition too far. I would just kill `W` and write `Fin m → K` everywhere. Definitions make proofs harder to read and also clog up the system.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 8]
```diff
@@ -1,31 +1,124 @@
...
+    let V := (WeightTwoAutomorphicFormOfLevel U K)
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: Again, we have a name for this, why introduce `V`?

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 9]
```diff
@@ -1,31 +1,124 @@
...
+        toFun := fun v i ↦ v.1.toFun (rep (index.symm i)),
+        map_add' := by
+            intros v₁ v₂
+            ext i
+            rfl
+        map_smul' := by
+            intros c v
+            ext i
+            rfl
+        }
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
  let φ : (WeightTwoAutomorphicFormOfLevel U K) →ₗ[K] (Fin m → K) := {
      toFun v i := v.1 (rep (index.symm i)),
      map_add' v₁ v₂ := rfl
      map_smul' c v := rfl
      }
```
You don't need the `intro`s, you can put everything left of the colon. You also don't need the `ext`s apparently.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 10]
```diff
@@ -1,31 +1,124 @@
...
+    -- Since we have a linear map φ from V to W and W is finite-dimensional,
+    -- it's enough to check that φ is injective.
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean:53]: That is true. So instead of writing like a mathematician, why now now argue backwards like a computer scientist, and *reduce* the goal to checking that phi is injective?
```lean
  apply FiniteDimensional.of_injective φ
```
on line 78 just turns the goal immediately into the claim that phi is injective meaning that you don't need a `have` statement any more (just delete it) and you don't need to indent another two spaces (note that the code style for Lean code is indent 2 not indent 4).

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 11]
```diff
@@ -1,31 +1,124 @@
...
+    have φ_injective : Function.Injective φ := by
+        intro v₁ v₂ h
+        let f₁ : WeightTwoAutomorphicForm F D K := v₁.1
+        let f₂ : WeightTwoAutomorphicForm F D K := v₂.1
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: Again I would probably not introduce these. In fact your argument here shows that we have missing API. Let's think about this a little.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 12]
```diff
@@ -1,31 +1,124 @@
...
+        -- Show v₁.toFun = v₂.toFun because they agree on reps and the
+        -- space is determined by those values
+        have fun_eq : ∀ d, f₁.toFun d = f₂.toFun d := by
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: So my instinct is to *reduce* the goal to this immediately, rather than to spend a long time proving it and then a few lines at the end deducing the result from it. And the `ext` tactic should do this immediately, but it doesn't. And this means that there is missing API. So you could add that API in this PR. Here's the API which I feel like is natural to add to make this proof shorter (this needs to be added in the file where `WeightTwoAutomorphicFormOfLevel` is defined, and this should be at the end, replacing what's already there):
```lean
def WeightTwoAutomorphicFormOfLevel (U : Subgroup (D ⊗[F] (FiniteAdeleRing (𝓞 F) F))ˣ)
    (R : Type*) [CommRing R] : Type _ := MulAction.FixedPoints U (WeightTwoAutomorphicForm F D R)

namespace WeightTwoAutomorphicFormOfLevel

variable {U : Subgroup (D ⊗[F] (FiniteAdeleRing (𝓞 F) F))ˣ} {R : Type*} [CommRing R]

@[coe]
def toFun (f : WeightTwoAutomorphicFormOfLevel U R)
    (x : (D ⊗[F] (FiniteAdeleRing (𝓞 F) F))ˣ) : R := f.1.toFun x

instance : CoeFun (WeightTwoAutomorphicFormOfLevel U R) (fun _ ↦ Dfx F D → R) where
  coe := toFun

omit [IsQuaternionAlgebra F D] in
@[ext]
lemma ext ⦃f g : WeightTwoAutomorphicFormOfLevel U R⦄ (h : ∀ x, f x = g x) : f = g :=
  Subtype.ext <| WeightTwoAutomorphicForm.ext _ _ h

omit [IsQuaternionAlgebra F D] in
lemma left_invt (f : WeightTwoAutomorphicFormOfLevel U R) (δ : Dˣ)
    (g : (D ⊗[F] FiniteAdeleRing (𝓞 F) F)ˣ) :
    f ((incl₁ F D) δ * g) = f g := f.1.left_invt δ g

instance : AddCommGroup (WeightTwoAutomorphicFormOfLevel U R) := inferInstanceAs <|
  AddCommGroup (MulAction.FixedPoints U (WeightTwoAutomorphicForm F D R))

instance : Module R (WeightTwoAutomorphicFormOfLevel U R) := inferInstanceAs <|
  Module R (MulAction.FixedPoints U (WeightTwoAutomorphicForm F D R))

end WeightTwoAutomorphicFormOfLevel

end finite_level

end TotallyDefiniteQuaternionAlgebra
```
Now we have a coercion to function (so you don't have to keep writing `blah.toFun`), we have an `ext` lemma, so you don't have to `apply Subtype.ext` at the end, and directly after `intro v₁ v₂ h` you can just write `ext d` and the goal will immediately be `⊢ ↑v₁ d = ↑v₂ d` (note only one up-arrow, not two, because we put the coercion to function where it should be in the other file).

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 13]
```diff
@@ -1,31 +1,124 @@
...
+            intro d
+            let d' := rep (Quot.mk _ d)
+            -- Because d' is a representative for the double coset containing d
+            have hcoset : ∃ γ : Dˣ, ∃ u ∈ U, d = (incl₁ F D γ) * d' * u := by
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: I feel like you're making a meal of this somehow -- or maybe there are missing lemmas about Doset? One thing's for sure, you don't have to create `hcoset` and the immediately destroy it on line 98, you can just start with
```
  obtain ⟨γ, u, hu, hd⟩ : ∃ γ : Dˣ, ∃ u ∈ U, d = (incl₁ F D γ) * d' * u := by
```
I'll maybe look at this proof in the second round.

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 14]
```diff
@@ -1,31 +1,124 @@
...
+                  exact Quotient.exact (Quotient.out_eq ⟦d⟧)
+                -- Apply Doset.rel_iff to extract the witnesses
+                rw [Doset.rel_iff] at h_rel
+                obtain ⟨h, hh, k, hk, h_eq⟩ := h_rel
+                obtain ⟨γ, hγ⟩ := hh
+                use γ, k, hk
+                rw [← hγ] at h_eq
+                exact h_eq
+            obtain ⟨γ, u, hu, hd⟩ := hcoset
+            have h1 : f₁.toFun d = f₁.toFun d' := by
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: Yeah this isn't what to prove. You should be proving that for all weight 2 automorphic forms, they have this property (and then apply it twice), and my instinct is that this should be a separate lemma rather than being proved in the middle of this lemma (and certainly rather than being proved twice in the middle of this lemma!). It's always good to factor out sublemmas.

**Review by kbuzzard — COMMENTED** [review]
It's great that you've got this out! Hopefully my review is helpful. I could just merge as it is, but I want to teach you some tricks. After you fix these we should be almost ready to merge, except I'd like to have a better look at the double coset argument once it's been factored out.

**Comment by kbuzzard** [comment]
awaiting-author

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean (hunk 12 above)
Comment (abhijit-mudigonda) [reply FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: This is great, thanks!

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean (hunk 13 above)
Comment (abhijit-mudigonda) [reply FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]: Yeah, the way I've done this definitely isn't great. I feel like there is a missing Doset lemma, but maybe there's a way to do it directly from existing things about Quot or Doset? The lemma I want is something like "if d and d' have the same double coset rep then there exist gamma and u such that d = gamma d' u".

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 15]
```diff
@@ -30,95 +26,58 @@ open TotallyDefiniteQuaternionAlgebra
...
+            exact Quotient.exact (Quotient.out_eq ⟦d⟧)
+        -- Apply Doset.rel_iff to extract the witnesses
+        rw [Doset.rel_iff] at h_rel
+        obtain ⟨h, hh, k, hk, h_eq⟩ := h_rel
+        obtain ⟨γ, hγ⟩ := hh
+        use γ, k, hk
+        rw [← hγ] at h_eq
+        exact h_eq
+    rw [hd, mul_assoc, v₁.left_invt γ (d' * u), v₂.left_invt γ (d' * u)]
+    rw [WeightTwoAutomorphicFormOfLevel.right_invt v₁ d' ⟨u, hu⟩,
```
Comment (abhijit-mudigonda) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean:71]: > Yeah this isn't what to prove. You should be proving that for all weight 2 automorphic forms, they have this property (and then apply it twice), and my instinct is that this should be a separate lemma rather than being proved in the middle of this lemma (and certainly rather than being proved twice in the middle of this lemma!). It's always good to factor out sublemmas.

(Couldn't figure out how to reply to your old comment on the new commit, sorry)

Let me know if this isn't what you had in mind. I considered doing both left and right invariance in one lemma but in my mind they come from different places (one from the base definition of automorphic form, the other from the level).

File: FLT/AutomorphicForm/QuaternionAlgebra/Defs.lean [hunk 16]
```diff
@@ -289,17 +289,48 @@ variable [IsQuaternionAlgebra F D]
 `WeightTwoAutomorphicFormOfLevel U R` is the `R`-valued weight 2 automorphic forms of a fixed
 level `U` for a totally definite quaternion algebra over a totally real field.
 -/
+
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/Defs.lean]:
```suggestion
```
No newline between the docstring and the definition

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 17]
```diff
@@ -1,31 +1,83 @@
...
+    -- a function on representatives given by the rep function above.
+    let φ : (WeightTwoAutomorphicFormOfLevel U K) →ₗ[K] (Fin m → K) := {
+      toFun v i := v.1.toFun (rep (index.symm i)),
+      map_add' v₁ v₂ := rfl
+      map_smul' c v := rfl
+    }
+    -- Since we have a linear map φ from V to W and W is finite-dimensional,
+    -- it's enough to check that φ is injective.
+    apply FiniteDimensional.of_injective φ
+
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
```
No blank lines in the middle of proofs

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean [hunk 18]
```diff
@@ -1,31 +1,83 @@
...
+    -- space is determined by those values
+    let d' := rep (Quot.mk _ d)
+    -- Because d' is a representative for the double coset containing d
+    obtain ⟨γ, u, hu, hd⟩ : ∃ γ : Dˣ, ∃ u ∈ U, d = (incl₁ F D γ) * d' * u := by
+        have h_rel : (Doset.setoid H' U) d' d := by
+            exact Quotient.exact (Quotient.out_eq ⟦d⟧)
+        -- Apply Doset.rel_iff to extract the witnesses
+        rw [Doset.rel_iff] at h_rel
+        obtain ⟨h, hh, k, hk, h_eq⟩ := h_rel
+        obtain ⟨γ, hγ⟩ := hh
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean]:
```suggestion
        obtain ⟨h, ⟨γ, hγ⟩, k, hk, h_eq⟩ := h_rel
```

File: FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean (hunk 15 above)
Comment (kbuzzard) [reply FLT/AutomorphicForm/QuaternionAlgebra/FiniteDimensional.lean:71]: Yeah this looks great, thanks!

**Comment by abhijit-mudigonda** [comment]
I'm so sorry for the delay! I saw your feedback right before I left for a trip and am just getting back on top of things. 

It doesn't look like the name of the `Doset` namespace has changed? As such, I didn't make that change but I think I've made everything else.
